US08975415B2
A mixture of tert-butyl (6′-aminodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate (115 mg, 0.333 mmol), 5-fluoropyridine-2-carboxylic acid (62.3 mg, 0.433 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (83.0 mg, 0.433 mmol), 1-hydroxybenzotriazole (58.5 mg, 0.433 mmol), N,N-diisopropylethylamine (0.074 mL, 0.433 mmol) and CH2Cl2 (1.2 mL) was stirred for 2.5 days at ambient temperature. The reaction mixture was purified with column chromatography on silica gel (hexane-EtOAc, a linear gradient of EtOAc from 10 to 90%) to afford tert-butyl (6′-{[(5-fluoropyridin-2-yl)carbonyl]amino}dispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate (136 mg).

reactant | tert-butyl (6′-aminodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate | 0.333 mmol, 115 mg | NC=1C=C2C(=CC1)OCC1(CC1)C21N=C(OC1)NC(OC(C)(C)C)=O | C18H23N3O4
reactant | 5-fluoropyridine-2-carboxylic acid | 0.433 mmol, 62.3 mg | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.433 mmol, 83.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.433 mmol, 58.5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.433 mmol, 0.074 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 1.2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (6′-{[(5-fluoropyridin-2-yl)carbonyl]amino}dispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)carbamate | 136 mg | FC=1C=CC(=NC1)C(=O)NC=1C=C2C(=CC1)OCC1(CC1)C21N=C(OC1)NC(OC(C)(C)C)=O | C24H25FN4O5
